US04758563
c. 1-[2-Chloro-3-(1-methylcyclohexyl)methoxypropyl]pyrrolidine
A 500 ml three necked round bottom flask was equipped with a mechanical stirrer, addition funnel, thermometer and an argon inlet and outlet. PCl5 (33 g; 0.159 m) and 18 ml of dry toluene was added to the reaction vessel. 38.5 g (0.151 m) of alpha-[((1-methylcyclohexyl)methoxy)methyl]-1-pyrrolidineethanol (the compound of Example 1b.) was added to the addition funnel along with 45 ml of toluene. Hydrogen chloride gas was bubbled into the addition funnel until the solution was acidic. The PCl5 suspension was cooled to 10° C. and the amino alcohol hydrochloride solution was added dropwise, maintaining the temperature between 10°-15° C. After the addition was complete, the ice bath was removed and the mixture stirred at RT for 1.5 hr. A two liter beaker containing 116 ml of 45% potassium hydroxide and 210 g of ice was cooled in an ice bath. The reaction mixture (a clear yellow solution) was transferred to a separatory funnel and added portionwise at a rate to keep the reaction temperature at 25°-35° C. Stirring was continued for 0.5 hr after the addition. The reaction was transferred to a two liter separatory funnel and diluted with water and ether. The water layer was extracted twice with ether and the combined ether extracts were washed twice with water, once with brine, dried over anhydrous potassium carbonate and concentrated in vacuo to give 29.12 g of the title compound.

reactant | PCl5 | 33 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | alpha-[((1-methylcyclohexyl)methoxy)methyl]-1-pyrrolidineethanol | 38.5 g | CC1(CCCCC1)COCC(CN1CCCC1)O | C15H29NO2
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-Chloro-3-(1-methylcyclohexyl)methoxypropyl]pyrrolidine | 29.12 g | ClC(CN1CCCC1)COCC1(CCCCC1)C | C15H28ClNO
